US04663344
2-bromomethyl-3-acetoxybenzo[b]thiophene
A suspension of 1.00 g (4.85 mmol) of 2-methyl-3-acetoxybenzo[b]thiophene, 1.21 g (6.78 mmol) of N-bromosuccinimide, and 10 mg benzoylperoxide was heated under reflux for 3 hours. The mixture was filtered and the filtrate was concentrated to afford 1.42 g (100%) of a pale yellow oil. NMR (CDCl3, 90 MHz) δ2.35 (s, 3H, OAc), 4.48 (s, 2H, --CH2 --Br), 7.2-7.8 (m, 4H).

reactant | 2-methyl-3-acetoxybenzo[b]thiophene | 4.85 mmol, 1.00 g | CC1=C(C2=C(S1)C=CC=C2)OC(C)=O | C11H10O2S
reactant | N-bromosuccinimide | 6.78 mmol, 1.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoylperoxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromomethyl-3-acetoxybenzo[b]thiophene | 1.42 g, 100% | BrCC1=C(C2=C(S1)C=CC=C2)OC(C)=O | C11H9BrO2S
